US03931239
A mixture of 5-isovaleryl-6,7-dimethylbenzofuran-2-carboxylic acid (8.5 g.), paraformaldehyde (2.0 g.), dimethylamine hydrochloride (3.3 g.) and acetic acid (1 ml.) is heated at 95°C. for 2.5 hours, treated with dimethylformamide (75 ml.), heated an additional 3.5 hours, poured into ice water (300 ml.) containing hydrochloric acid (5 ml.). The product is extracted into ether, washed with water, dried over magnesium sulfate, the solvent evaporated at reduced pressure to afford 5-(2-methyleneisovaleryl)-6,7-dimethylbenzofuran-2-carboxylic acid.

reactant | 5-isovaleryl-6,7-dimethylbenzofuran-2-carboxylic acid | 8.5 g | C(CC(C)C)(=O)C=1C(=C(C2=C(C=C(O2)C(=O)O)C1)C)C | C16H18O4
reactant | paraformaldehyde | 2.0 g | C=O | CH2O
reactant | dimethylamine hydrochloride | 3.3 g | Cl.CNC
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 5-(2-methyleneisovaleryl)-6,7-dimethylbenzofuran-2-carboxylic acid | C=C(C(=O)C=1C(=C(C2=C(C=C(O2)C(=O)O)C1)C)C)C(C)C | C17H18O4
